US08563575B2
Ethyl bromoacetate (0.240 mL) was added to a solution of 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (400 mg) and sodium hydride (86 mg) in DMF (2 mL) at room temperature. The mixture was stirred at room temperature under a dry atmosphere (CaCl2 tube) for 2 h. The reaction mixture was diluted with MeOH (5 mL), and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, eluted with 0%-50% EtOAc in hexane) to give ethyl {2-[4-(1-ethyl-2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)phenoxy]-1H-benzimidazol-1-yl}acetate (480 mg) as off-white crystals.

reactant | Ethyl bromoacetate | 0.240 mL | BrCC(=O)OCC | C4H7BrO2
reactant | 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 400 mg | N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)N2C(N(C=1C2=NC=CC1)CC)=O | C21H17N5O2
reactant | sodium hydride | 86 mg | [H-].[Na+]
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 5 mL | CO | CH4O
product | ethyl {2-[4-(1-ethyl-2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)phenoxy]-1H-benzimidazol-1-yl}acetate | 480 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(OC1=NC3=C(N1CC(=O)OCC)C=CC=C3)C=C2)=O | C25H23N5O4
